US05602253
(ii) (3RS)-1-(N-benzyloxycarbonylamidino)-3-hydroxymethyl pyrrolidine
1.01 g (0.01 mole) (3RS)-3-hydroxymethyl pyrrolidine and 2.29 g (0.011 mole) N-benzyloxycarbonyl-O-methylisourea was dissolved (the amine not very soluble) in toluene and heated to 60° C. for three hours followed by stirring at room temperature over night. The mixture was evaporated and the 1H-NMR showed that the reaction was not completed. The mixture was therefore dissolved in 15 ml acetonitrile and heated to 60° C. for three hours followed by stirring at room temperature over night. The solvebt was evaporated and the mixture was dissolved in CH2Cl2, washed once with water, dried (Na2SO4), filtered and evaporated. The crude product was purified by flash chromatography using CH2Cl2 /MeOH 95/5 as eluent to yield 0.70 g (25%) of the product.

reactant | (3RS)-3-hydroxymethyl pyrrolidine | 0.01 mole, 1.01 g | OCC1CNCC1 | C5H11NO
reactant | N-benzyloxycarbonyl-O-methylisourea | 0.011 mole, 2.29 g | C(C1=CC=CC=C1)OC(=O)NC(OC)=N | C10H12N2O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3RS)-1-(N-benzyloxycarbonylamidino)-3-hydroxymethyl pyrrolidine | 0.70 g, 25% | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CC(CC1)CO | C14H19N3O3
